US08211930B2
Isobutyl 3-(5-((1R,2S)-2-(2,2-difluoropropanamido)-1-(2,3-dihydrobenzo[b][1,4]dioxin-6-yl)propoxy)-1H-indazol-1-yl)benzoate (I4a)
Isobutyl 3-(5-((1R,2S)-2-amino-1-(2,3-dihydrobenzo[b][1,4]dioxin-6-yl)propoxy)-1H-indazol-1-yl)benzoate (I4b) (0.5 g, 1.00 mmol), 2,2-difluoropropanoic acid (0.16 g, 1.45 mmol) and HBTU (0.567 g, 1.50 mmol) in DCM (4 mL) was treated with DIEA (0.696 mL, 3.99 mmol), the mixture was stirred at ambient temperature for 1 hour. The reaction was quenched by addition 10% NaHSO4 (aq), brine was added to help phase separation. The lower red DCM phase was separated, the waterphase was extracted with one portion of EtOAc, the combined organic solutions were dried over MgSO4 and filtered, solvents was removed by evaporation. Obtained a crude product as red oil. The crude material was further purified by flashchromatography using an 70 g prepacked silica column, an gradient of 0% to 50% EtOAc in Heptane was applied. Fractions with product was combined and solvents was removed by evaporation. An slightly yellow sticky oil was obtained after final evaporation from DCM. Yield 540 mg (91%).

reactant | Isobutyl 3-(5-((1R,2S)-2-amino-1-(2,3-dihydrobenzo[b][1,4]dioxin-6-yl)propoxy)-1H-indazol-1-yl)benzoate | 1.00 mmol, 0.5 g | N[C@H]([C@H](OC=1C=C2C=NN(C2=CC1)C=1C=C(C(=O)OCC(C)C)C=CC1)C1=CC2=C(OCCO2)C=C1)C | C29H31N3O5
reactant | 2,2-difluoropropanoic acid | 1.45 mmol, 0.16 g | FC(C(=O)O)(C)F | C3H4F2O2
reactant | HBTU | 1.50 mmol, 0.567 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.F[P-](F)(F)(F)(F)F
reactant | DIEA | 3.99 mmol, 0.696 mL | CCN(C(C)C)C(C)C | C8H19N
solvent | DCM | 4 mL | C(Cl)Cl | CH2Cl2
product | Isobutyl 3-(5-((1R,2S)-2-(2,2-difluoropropanamido)-1-(2,3-dihydrobenzo[b][1,4]dioxin-6-yl)propoxy)-1H-indazol-1-yl)benzoate | FC(C(=O)N[C@H]([C@H](OC=1C=C2C=NN(C2=CC1)C=1C=C(C(=O)OCC(C)C)C=CC1)C1=CC2=C(OCCO2)C=C1)C)(C)F | C32H33F2N3O6
